US05215738
Preparation of 3-(2-Acetoxyethoxy)benzamide
A mixture of 3-hydroxybenzamide (3.0 g, 21.9 mmol) prepared as in Example 1, 2-bromoethyl acetate (11.9 g, 70.9 mmol), and K2CO3 (5.7 g, 41.2 mmol) in 40 cc dry dimethyl formamide (DMF) was stirred at 25° C. for 48 hours and filtered. The filtrate was evaporated in vacuo and the resulting residue was recrystallized from 90% EtOH(H2O) to give 3.2 g (65%) of the desired product as a white crystalline powder, mp 121°-122° C. Here, as in the other examples, the product compound was identified by elemental analysis as well as by IR and mass spectroscopy methods.

reactant | 3-hydroxybenzamide | 21.9 mmol, 3.0 g | OC=1C=C(C(=O)N)C=CC1 | C7H7NO2
reactant | 2-bromoethyl acetate | 70.9 mmol, 11.9 g | C(C)(=O)OCCBr | C4H7BrO2
reactant | K2CO3 | 41.2 mmol, 5.7 g | C(=O)([O-])[O-].[K+].[K+]
solvent | dimethyl formamide | 40 cc | CN(C=O)C | C3H7NO
product | 3-(2-Acetoxyethoxy)benzamide | 3.2 g, 65% | C(C)(=O)OCCOC=1C=C(C(=O)N)C=CC1 | C11H13NO4
